US06245478B1
N-hydroxysuccinimide (11.5 g, 0.1 mol) was dissolved in 200 g of sufficiently dried tetrahydrofuran. To the solution was added dropwise 12.5 g (0.1 mol) of cyclohexyl isocyanate, and then a catalytic amount of triethylamine was added. After stirring at room temperature overnight, the reaction solution was decolored with active carbon and concentrated. The deposited crystal was filtered and washed with a small amount of ether to obtain 18.0 g of N-(cyclohexylcarbamoyloxy)succinimide represented by the following formula. Yield: 81.5%.

reactant | N-hydroxysuccinimide | 0.1 mol, 11.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | cyclohexyl isocyanate | 0.1 mol, 12.5 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(cyclohexylcarbamoyloxy)succinimide | 18.0 g, Yield: 81.5% | C1(CCCCC1)NC(=O)ON1C(CCC1=O)=O | C11H16N2O4
